* AD744A SPICE Macro-model       		1/91, Rev. A
*								JLW / PMI
*
* This version of the AD744 model simulates the worst case
* parameters of the 'A' grade. The worst case parameters 
* used correspond to those in the device data sheet.
*
*
* Copyright 1991 by Analog Devices, Inc.
*
* Refer to "README.DOC" file for License Statement.  Use of this model
* indicates your acceptance with the terms and provisions in the License Statement.
*
* connections: non-inverting input
*               |   inverting input
*               |   |   positive power supply
*               |   |   |   negative power supply
*               |   |   |   |   output
*               |   |   |   |   |    compensation
*               |   |   |   |   |    /  \
.subckt AD744A  11  14  10  16  13  12  15
* 
VOS 14 7 DC 1E-3
EC 8 0 13 0 1
C1 5 6 0.33E-12
GB 12 0 15 0 1.67E3 
RD1 5 16 16E3
RD2 6 16 16E3
ISS 10 1 DC 100E-6
GCM 0 15 0 1 1.76E-9
GA 15 0 6 5 1.4E-3
CCE 12 15 0.001E-12
RE 1 0 2.5E6
RGM 15 0 1.44E3
VC 10 2 DC 2.8
VE 9 16 DC 3.1
RO1 12 13 25
CE 1 0 1E-12
RO2 0 12 30
RS1 1 3 5.77E3
RS2 1 4 5.77E3
CCI 15 12 40E-12
RP 16 10 6.13E3
J1 5 11 3 FET
J2 6 7 4 FET
DC 13 2 DIODE
DE 9 13 DIODE
DP 16 10 DIODE
D1 8 12 DIODE
D2 12 8 DIODE
IOS 14 11 25E-12
.MODEL DIODE D()
.MODEL FET PJF(VTO=-1 BETA=1E-3 IS=100E-12)
.ENDS
